US04847305
2,6-bis(1,1-dimethylethyl)-4-(methylsulfinyl)phenol
A mixture of 2,6-bis(1,1-dimethylethyl)-4-(methylthio)phenol (2.0 g, 3.9 mmole) and meta-chloroperoxybenzoic acid (0.86 g, 4.1 mmole) in dichloromethane (25 ml) was stirred at room temperature for 20 hours. Water was added and the phases were separated. The organic layer was dried over magnesium sulfate, filtered, and concentrated in vacuo to dryness. Chromatography on silica gel gave the title compound, m.p. 171°-173°.

reactant | 2,6-bis(1,1-dimethylethyl)-4-(methylthio)phenol | 3.9 mmole, 2.0 g | CC(C)(C)C1=C(C(=CC(=C1)SC)C(C)(C)C)O | C15H24OS
reactant | meta-chloroperoxybenzoic acid | 4.1 mmole, 0.86 g | ClC=1C=C(C(=O)OO)C=CC1 | C7H5ClO3
reactant | Water | O | H2O
solvent | dichloromethane | 25 ml | ClCCl | CH2Cl2
product | 2,6-bis(1,1-dimethylethyl)-4-(methylsulfinyl)phenol | CC(C)(C)C1=C(C(=CC(=C1)S(=O)C)C(C)(C)C)O | C15H24O2S
